Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ year-old woman with past medical history 
significant for hypertension, tobacco use, and pseudotumor 
cerebri, who presents with acute onset chest pain

Patient was working as a ___ at ___ when she began to feel 
chest pain and shortness of breath. This was a discomfort on the 
right side of her chest that radiated to her right jaw. It felt 
almost like a dull cramp and hurt when she took a deep breath or 
inhaled. She also noted pain in her back with taking a deep 
breath. She denied dyspnea, paroxysmal nocturnal dyspnea, 
orthopnea, palpitations, pre-syncope, syncope.

Past medical history is notable for 2 spontaneous pneumothoraces 
in the 1990s for which she underwent VATS. She is S/P roux-en-Y 
gastric bypass surgery with subsequent ulceration at the 
anastomosis for which she takes ompeprazole BID. She has not 
followed with her PCP in ___ number of years as she became 
disillusioned with physicians given her experience related to 
pseudotumor cerebri.

In the ED initial vitals were: T 98.1 HR 88 BP 181/87 RR 16 SpO2 
100% on RA. EKG showed NSR with normal axis and normal 
intervals. There was ___epression in V4-V6 in a strain 
pattern. Labs/studies notable for WBC 9.3, Hg 10.1, Hct 34.7, 
Plts 370, Na 138, K 3.7 BUN 2, Cr 0.7, glc 100, TropT < 0.01 x 
2. Patient was given aspirin 324 mg PO, heparin gtt, morphine 
sulfate 4 mg IV, Nitroglycerin SL x 3. Cardiology saw that 
patient and recommended CTA to rule out dissection, cardiac 
biomarkers, echocadiogram, and admission for hypertensive 
emergency. They also recommended deferring heparin gtt in the 
setting of negative troponin, but recommended continuing 
aspirin, atorvastatin, and beta-blockade. CTA chest showed no 
evidence of pulmonary embolism or aortic abnormality, no 
evidence of dissection. Vitals on transfer: T 98.4 HR 70 BP 
119/70 RR 20 SaO2 100% on RA.

After arrival to the cardiology ward, patient noted improvement 
of right-sided chest discomfort. She continued to have mild 
headache which was made worse after receiving nitroglycerin in 
the ED. She denied diaphoresis, dyspnea, palpitations.
 
Past Medical History:
1. CAD RISK FACTORS
- Tobacco use
- Hypertension

2. CARDIAC HISTORY
- none

3. OTHER PAST MEDICAL HISTORY
- Gastric ulcer
- Pseudotumor cerebri
- Gastric bypass
 
Social History:
___
Family History:
Mother had hypertension, CHF, pulmonary hypertension. Father had 
hypertension, HLD. Paternal grandfather had stroke and heart 
attack.
 
Physical Exam:
On admission
GENERAL: Middle aged white woman lying comfortably in bed. Mood, 
affect appropriate.
VS: ___ 1653 Temp: 98.8 PO BP: 172/93 HR: 68 RR: 16 O2 sat: 
99% O2 delivery: RA
HEENT: PERRL. EOMI. Conjunctiva were pink. No pallor or cyanosis 
of the oral mucosa.
NECK: Supple. No JVD.
CARDIAC: Regular rate and rhythm. Normal S1, S2. No murmurs, 
rubs, or gallops.
LUNGS: No chest wall deformities or tenderness. Lungs clear to 
auscultation. No crackles, wheezes or rhonchi.
ABDOMEN: Soft, non-tender, non-distended.
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.
PULSES: 2+ peripheral pulses.

At discharge
GENERAL: Lying comfortably in bed. Mood, affect appropriate.
VS: ___ ___ Temp: 98.4 PO BP: 152/83 HR: 59 RR: 16 O2 sat: 
99% O2 delivery: RA
HEENT: Conjunctiva were pink. No pallor or cyanosis of the oral 
mucosa.
NECK: Supple. No JVD.
CARDIAC: Regular rate and rhythm. Normal S1, S2. No murmurs, 
rubs, or gallops. 
LUNGS: No chest wall deformities or tenderness. Lungs clear to 
auscultation. No crackles, wheezes or rhonchi.
ABDOMEN: Soft, non-tender, non-distended.
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.
PULSES: 2+ peripheral pulses.
 
Pertinent Results:
___ 09:56AM BLOOD WBC-9.3 RBC-5.65* Hgb-10.1* Hct-34.7 
MCV-61* MCH-17.9* MCHC-29.1* RDW-22.1* RDWSD-45.1 Plt ___
___ 09:56AM BLOOD Neuts-62.4 ___ Monos-6.6 Eos-1.3 
Baso-0.6 Im ___ AbsNeut-5.78 AbsLymp-2.67 AbsMono-0.61 
AbsEos-0.12 AbsBaso-0.06
___ 09:56AM BLOOD ___ PTT-29.3 ___

___ 09:56AM BLOOD Glucose-100 UreaN-2* Creat-0.7 Na-138 
K-3.7 Cl-99 HCO3-22 AnGap-17

___ 09:56AM BLOOD cTropnT-<0.01
___ 02:22PM BLOOD cTropnT-<0.01
___ 11:45PM BLOOD CK-MB-<1 cTropnT-<0.01

___ 07:05AM BLOOD WBC-5.2 RBC-4.73 Hgb-8.6* Hct-28.9* 
MCV-61* MCH-18.2* MCHC-29.8* RDW-21.3* RDWSD-44.8 Plt ___
___ 07:05AM BLOOD Glucose-91 UreaN-9 Creat-0.8 Na-141 K-4.5 
Cl-102 HCO3-22 AnGap-17
___ 07:05AM BLOOD calTIBC-460 ___ Ferritn-5.3* 
TRF-354
___ 12:46PM BLOOD %HbA1c-5.5 eAG-111
___ 07:05AM BLOOD Calcium-9.4 Phos-4.9* Mg-2.1 Iron-15* 
Cholest-191
___ 07:05AM BLOOD Triglyc-144 HDL-32* CHOL/HD-6.0 
LDLcalc-130*
___ 07:05AM BLOOD TSH-3.2

CTA Chest ___
HEART AND VASCULATURE: Pulmonary vasculature is well opacified 
to the subsegmental level without filling defect to indicate a 
pulmonary embolus. The thoracic aorta is normal in caliber 
without evidence of dissection or intramural hematoma. The 
heart, pericardium, and great vessels are within normal limits. 
No pericardial effusion is seen.
AXILLA, HILA, AND MEDIASTINUM: There are few measurable 
mediastinal lymph nodes measuring up to 8 mm. Otherwise, no 
axillary, mediastinal, or hilar lymphadenopathy is present by CT 
size criteria. No mediastinal mass.
PLEURAL SPACES: No pleural effusion or pneumothorax.
LUNGS/AIRWAYS: There is dependent posterior subsegmental 
atelectasis. There is biapical paraseptal emphysema and 
scarring. There is right apical linear hyperdensities which 
likely represents suture lines. There are a few millimetric 
right pulmonary nodules (03:54, 84, 138) and few scattered 
calcified granulomas. There are lungs are without masses or 
areas of parenchymal opacification. The airways are patent to 
the level of the segmental bronchi bilaterally.
BASE OF NECK: Visualized portions of the base of the neck 
demonstrates a 1.7 cm hypodense nodule in the left thyroid lobe. 
Otherwise, unremarkable.
ABDOMEN: Included portion of the upper abdomen demonstrates a 
surgically absent gallbladder, status post Roux-en-Y anatomy. 
Otherwise, unremarkable.
BONES: No suspicious osseous abnormality is seen.? There is no 
acute fracture.
IMPRESSION:
1. No evidence of pulmonary embolism or aortic abnormality. No 
evidence of dissection.
2. Incidental 1.7 cm left thyroid lobe nodule warrants 
evaluation with thyroid ultrasound on a non urgent basis.
3. Few millimetric pulmonary nodules. Attention on follow-up 
imaging.
RECOMMENDATION(S): Thyroid ultrasound.

Stress echocardiogram ___
The patient exercised on a modified ___ treadmill (3 min 
stages) protocol for 7 min 0 sec ___ METS) representing a fair 
exercise capacity for age and gender. The test was stopped due 
to fatigue. In response to stress, the patient had no symptoms.
Hemodynamics: There was a normal resting blood pressure. In 
response to stress, the heart rate increased to 110 bpm (66 % 
APMHR) with a peak systolic blood pressure of 174 mmHg (peak 
rate-pressure product = ___.
ECG: The stress ECG showed showed non-specific changes.
Rest echo: Resting echo images demonstrated normal left 
ventricular wall thicknesses with a normal cavity size. There is 
normal regional left ventricular systolic function and normal 
global systolic function. Quantitative/biplane resting left 
ventricular end-diastolic volume was 96 mL with an ejection 
fraction of 69 %. The right ventricular cavity size is normal 
with normal free wall motion. There is no pericardial effusion. 
Doppler demonstrates no aortic valve stenosis, no aortic 
regurgitation, trivial mitral regurgitation and no resting left 
ventricular outflow tract gradient. The resting estimated 
pulmonary artery systolic pressure is normal.
Stress echo: Echo images were acquired within 60 sec post stress 
at heart rates of 107 to 96 bpm. These demonstrated appropriate 
augmentation of all left ventricular segments. There was 
appropriate augmentation of right ventricular free wall motion. 
This demonstrated no change in the severity of mitral 
regurgitation. The pulmonary artery systolic pressure was 24mmHg 
(+ right atrial pressure) at post exercise at a heart rate of. 
This value is similar to baseline/rest.
Exercise conclusion: Fair functional exercise capacity for age 
and gender. Non-specific ECG changes in the setting of an 
abnormal baseline, with no symptoms, and no 2D echocardiographic 
evidence of inducible ischemia to achieved treadmill stress. 
Normal resting blood pressure with a normal blood pressure and a 
blunted heart rate (beta blocker) response to achieved treadmill 
stress. There is no change in severity of mitral regurgitation 
post exercise. Normal pulmonary artery systolic pressure at rest 
with no change after exercise.
Suboptimal Study: Poor post- exercise image quality and target 
heart rate not achieved.
 
Brief Hospital Course:
___ with H/O hypertension, tobacco use, pseudotumor cerebri, 
prior gastric bypass who presented with acute onset chest pain. 
She was found to be hypertensive SBP in 180s. ECG showed diffuse 
ST depression and biphasic T waves with isolated ST elevation in 
aVR. Troponin-T negative x3. CTA without evidence of pulmonary 
embolus or aortic dissection. Patient wast treated initially 
with ASA, heparin and sl nitroglycerin. Patient underwent 
exercise stress echocardiogram on ___ with normal resting LVEF 
69%. She exercised to ___ METs (fair functional capacity for age) 
with no inducible symptoms, non-specific ECG changes, normal 
augmentation of the left ventricle and no echocardiographic 
evidence of inducible ischemia. She was started on aspirin 81 
mg. She had a HgbA1c and lipid panel checked to further guide 
primary preventative therapy based on estimated ASCVD risk but 
patient requested discharge prior to lab results returning. 
During hospitalization, patient was also found to have 
microcytic anemia with Hgb 8.6 likely due to post gastric bypass 
iron deficiency anemia. Iron studies were checked but patient 
requested discharge prior to these labs returning. Patient was 
prescribed iron supplementation.

TRANSITIONAL ISSUES: 
- Tobacco Cessation: Patient advised to quit smoking but 
declined tobacco replacement therapy. Importance of tobacco 
cessation should be re-addressed in outpatient setting.
- Anemia: Hgb8.6, microcytic with no signs of bleeding or 
hemolysis. Likely iron deficiency anemia given H/O ___ and 
gastric bypass. Started PO iron but should f/u repeat CBC and 
iron studies.
- Thyroid nodule: Incidental 1.7 cm left thyroid lobe nodule on 
CTA Chest. TSH drawn prior to d/c. Please f/u TSH and obtain 
thyroid ultrasound
- Pulmonary Nodules: Few millimetric pulmonary nodules that 
should warrant CT follow-up in 12 months given patient is smoker 
and thus at high-risk for malignancy
- ASCVD Risk: HgbA1c and lipid panel drawn during 
hospitalization but patient wanted to leave before these results 
came back. Please follow up and consider starting statin based 
on ASCVD ___ year risk predicted by ___/ACC ___ risk calculator
# CODE STATUS: Full Code (confirmed)
# CONTACT: ___ - boyfriend (___)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Topiramate (Topamax) 200 mg PO QHS 
2. Omeprazole 40 mg PO BID 
3. HydrOXYzine 100 mg PO QHS:PRN insomnia
 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Ferrous Sulfate 325 mg PO DAILY 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
3.  Labetalol 200 mg PO BID 
RX *labetalol 200 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
4.  HydrOXYzine 100 mg PO QHS:PRN insomnia  
5.  Omeprazole 40 mg PO BID 
RX *omeprazole 20 mg 2 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
6.  Topiramate (Topamax) 200 mg PO QHS
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Chest pain without evidence of cardiac myonecrosis nor 
inducible ischemia on exercise echocardiogram
-Hypertensive urgency
-Cigarette use
-Microcytic anemia
-Iron deficiency anemia
-Prior gastric bypass surgery
-Prior gastric ulcer
-Thyroid nodule
-Pulmonary nodules
-Pseudotumor cerebri
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___,
  
You were admitted to the hospital because you had chest pain. 
You had an electrocardiogram, blood tests, and a stress test 
that were normal. You were also found to have low red blood cell 
counts. You should follow up with your doctors as listed below. 

WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?  
 - Take all of your medications as prescribed (listed below)  
 - Follow up with your doctors as listed below  
 - Seek medical attention if you have new or concerning symptoms 
or you develop chest pain, swelling in your legs, abdominal 
distention, or shortness of breath.  
 
It was a pleasure participating in your care. We wish you the 
best!  
 -Your ___ Care Team  
 
Followup Instructions:
___